US08492372B2
2-METHOXY-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE
Preparation according to Example 22 using 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine (30 mg, 0.10 mmol), 2-methyoxyethanamine (0.50 ml, 5.8 mmol) and EtOH (1.0 ml). MS m/z (rel. intensity, 70 eV) 301 (M+, 1), 123 (13), 88 (bp), 72 (25), 56 (13).

reactant | 2-(bromomethyl)-7-(methylsulfonyl)-4H-1,3-benzodioxine | 0.10 mmol, 30 mg | BrCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C10H11BrO4S
reactant | 2-methyoxyethanamine | 5.8 mmol, 0.50 ml | COCCN | C3H9NO
solvent | EtOH | 1.0 ml | CCO | C2H6O
product | 2-METHOXY-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE | COCCNCC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C13H19NO5S
